.MODEL BS170 NMOS (

+ VTO=1.824 

+ KP=0.123 

+ LAMBDA=0.012 

+ RD=1.2 

+ RS=1.2 

+ RG=10 

+ CBD=18p 

+ CBS=0 

+ CJ=0 

+ CJO=24p 

+ CGSO=30p 

+ CGDO=10p 

+ IS=1e-14 

+ PB=0.8 

+ MJ=0.5 

+ FC=0.5

+)



*-------------------------------------------------------------------

* BS170 SPICE Model (Vishay / Siliconix)

* Includes non-linear Ciss, Coss, Crss capacitances & Body Diode

* Node 1: Drain (D) | Node 2: Gate (G) | Node 3: Source (S)

*-------------------------------------------------------------------

.SUBCKT BS170 1 2 3

M1 9 7 8 8 MM L=10u W=30u

D1 8 1 D_BODY

RG 2 7 10

RD 1 9 1.15

RS 3 8 0.15

CGS 7 8 24.5p

CGD 7 1 3.5p

DBODY 8 1 D_BD

.MODEL MM NMOS (

+ LEVEL = 3

+ VTO   = 2.1

+ KP    = 0.38

+ THETA = 0.08

+ VMAX  = 1.5e5

+ ETA   = 0.015

+)

.MODEL D_BODY D (

+ IS    = 1e-13

+ RS    = 0.1

+ N     = 1.0

+ BV    = 60

+ IBV   = 10u

+)

.MODEL D_BD D (

+ IS    = 1e-15

+ CJO   = 28p

+ VJ    = 0.8

+ M     = 0.5

+)

.ENDS BS170
